US06806381B2
Preparation of 4-(2,6-dibromo-4-nitrophenoxy)-2-isopropylanisole
A 22 L jacketed vessel equipped with mechanical stirring and a nitrogen inlet adapter was charged with dimethylformamide (4 L) and 3-isopropyl-4-methoxyphenol (462.8 g, 2.59 moles). The solution was cooled to 0° C., and KHMDS (5.50 L of 0.5M toluene solution, 2.25 moles) was added over 1.5 h while maintaining the temperature of the mixture below 2° C. The reaction mixture was stirred for 30 min at 2° C., then 1,3-dibromo-2-iodo-5-nitro-benzene (798.6 g, 1.96 moles) was added in portions, still maintaining temperature of the mixture below 2° C. After the addition was complete, the reaction mixture was allowed to stir at room temperature for 2 h or until the reaction was complete as assayed by HPLC. The reaction mixture was cooled once more to 2° C. and ethyl acetate (4.5 L) was added, followed by slow addition of saturated aqueous sodium bicarbonate (6 L) while maintaining the temperature of the reaction mixture below 28° C. The organic layer was washed with saturated aqueous sodium chloride solution, then concentrated by rotary evaporation. The black, oily residue was taken up in acetone (3.87 L). Water (0.77 L) was added to the solution over 30 min with heating to 42° C. The solution was seeded with crystals of the product, cooled to 0° C., and stirred for 15 min. The resulting crystals of 4-(2,6-dibromo-4-nitrophenoxy)-2-isopropylanisole (665 g, 76.1%) were recovered by filtration and dried for 48 h by evaporation under air flow at room temperature.

reactant | 3-isopropyl-4-methoxyphenol | 2.59 moles, 462.8 g | C(C)(C)C=1C=C(C=CC1OC)O | C10H14O2
reactant | KHMDS | 2.25 moles, 0.5M, 5.50 L | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 1,3-dibromo-2-iodo-5-nitro-benzene | 1.96 moles, 798.6 g | BrC1=C(C(=CC(=C1)[N+](=O)[O-])Br)I | C6H2Br2INO2
reactant | sodium bicarbonate | 6 L | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 4.5 L | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 4 L | CN(C=O)C | C3H7NO
product | 4-(2,6-dibromo-4-nitrophenoxy)-2-isopropylanisole | BrC1=C(OC2=CC(=C(C=C2)OC)C(C)C)C(=CC(=C1)[N+](=O)[O-])Br | C16H15Br2NO4
